US05102667
Hydroxybenzotriazole monohydrate (1 g) is added to a solution of (S)-α-methoxyphenylacetic acid (1.23 g) in dry dimethylformamide (20 cc), cooled to +5° C.; stirring is continued for 15 minutes and N,N'-dicyclohexylcarbodiimide (1.53 g) is then added. The mixture is stirred for 1 hour at +5° C. and a solution of (3aR,7aR)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (2.43 g) and diisopropylethylamine (1.28 cc) in dry dimethylformamide (10 cc) is then added. The reaction mixture is stirred at +5° C. for 2 hours and then at ambient temperature for 2 hours. The reaction mixture, taken up in ethyl acetate (100 cc), is filtered; the filtrate is washed with distilled water (2×100 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (diameter 2.2 cm, height 27 cm), eluting with a mixture of cyclohexane and ethyl acetate (80/20 by volume) and collecting 20 cc fractions. Fractions 68 to 177 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from isopropyl ether (15 cc); the crystals obtained are drained and then dried. (3aR,7aR)-7,7-diphenyl-2-[(S)-2-methoxy-2-phenylacetyl]-4-perhydroisoindolone (1.3 g) is obtained in the form of white crystals melting at 130° C.; [α]D20 =-230° (c=1, methanol).

reactant | Hydroxybenzotriazole monohydrate | 1 g | O.OC1=CC=CC=2NN=NC21
reactant | (S)-α-methoxyphenylacetic acid | 1.23 g | CO[C@H](C(=O)O)C1=CC=CC=C1 | C9H10O3
reactant | N,N'-dicyclohexylcarbodiimide | 1.53 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (3aR,7aR)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 2.43 g | Cl.C1(=CC=CC=C1)C1(CCC([C@H]2CNC[C@@H]12)=O)C1=CC=CC=C1
reactant | diisopropylethylamine | 1.28 cc | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 cc | C(C)(=O)OCC | C4H8O2
product | (3aR,7aR)-7,7-diphenyl-2-[(S)-2-methoxy-2-phenylacetyl]-4-perhydroisoindolone | 1.3 g | C1(=CC=CC=C1)C1(CCC([C@H]2CN(C[C@@H]12)C([C@H](C1=CC=CC=C1)OC)=O)=O)C1=CC=CC=C1 | C29H29NO3
